US07820698B2
Step 1: preparation of 2-ethoxy-1-methoxy-4-nitro-benzene
2-methoxy-5-nitro-phenol (508 mg, 3 mmoles) was dissolved in DMF (20 mL) under nitrogen atmosphere. K2CO3 (900 mg, 6.5 mmoles), KI (490 mg, 2.95 mmol) and ethyl bromide (0.250 mL, 3.3 mmoles) were added, and the suspension was heated to 40° C. for 28 hours. The mixture was diluted with AcOEt (60 mL) and extracted with 1N NaOH (40 mL) and water (40 mL). The organic layer was dried over Na2SO4 and evaporated to dryness. The crude was employed in the next step without purification.

reactant | 2-methoxy-5-nitro-phenol | 3 mmoles, 508 mg | COC1=C(C=C(C=C1)[N+](=O)[O-])O | C7H7NO4
reactant | K2CO3 | 6.5 mmoles, 900 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromide | 3.3 mmoles, 0.250 mL | C(C)Br | C2H5Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | AcOEt | 60 mL | CCOC(=O)C | C4H8O2
product | 2-ethoxy-1-methoxy-4-nitro-benzene | C(C)OC1=C(C=CC(=C1)[N+](=O)[O-])OC | C9H11NO4
